US03988339
2-Acetyl-7,8-dichloro-1,2,3,4-tetrahydroisoquinoline is treated with excess diborane in tetrahydrofuran and refluxed for 16 hours. Methanol is added to destroy excess diborane and the solvent is removed in vacuo. The residue is dissolved in ether, treated with hydrogen chloride and filtered to give 7,8-dichloro-2-ethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride.

reactant | 2-Acetyl-7,8-dichloro-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)Cl)Cl | C11H11Cl2NO
reactant | diborane | B#B | B2
reactant | Methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7,8-dichloro-2-ethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C2CCN(CC2=C1Cl)CC | InChI=1S/C11H13Cl2N.ClH/c1-2-14-6-5-8-3-4-10(12)11(13)9(8)7-14;/h3-4H,2,5-7H2,1H3;1H
